US06900216B2
Oxalyl chloride (9.6 ml) was added dropwise at 0° C. under nitrogen to a stirred solution of cyclopropaneacetic acid (10 g) in dichloromethane (250 ml), then the mixture was stirred at 0° C. for 1 hour and at ambient temperature for 42 hours. The resulting solution of cyclopropaneacetyl chloride was added dropwise at 0-5° C. to a stirred aqueous solution of N,O-dimethylhydroxylamine prepared by addition of potassium carbonate (24.8 g) in portions at 0-5° C. over 30 minutes to a stirred solution of N,O-dimethylhydroxylamine hydrochloride (10.2 g) in water (110 ml). When the addition of the acid chloride solution was complete, the mixture was stirred at 0° C. for 20 minutes and at ambient temperature for 4 hours. The organic phase was separated, washed with saturated aqueous sodium chloride solution (50 ml) and dried (MgSO4), then the solvent was removed in vacuo to leave N-methoxy-N-methylcyclopropaneacetamide (13.6 g) as a colourless oil which was used without further purification.

reactant | Oxalyl chloride | 9.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | cyclopropaneacetic acid | 10 g | C1(CC1)CC(=O)O | C5H8O2
reactant | cyclopropaneacetyl chloride | C1(CC1)CC(=O)Cl | C5H7ClO
reactant | N,O-dimethylhydroxylamine | CNOC | C2H7NO
reactant | potassium carbonate | 24.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,O-dimethylhydroxylamine hydrochloride | 10.2 g | Cl.CNOC
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | water | 110 ml | O | H2O
product | N-methoxy-N-methylcyclopropaneacetamide | 13.6 g | CON(C(CC1CC1)=O)C | C7H13NO2
